US08664217B2
Synthesis of 7-(3-{bis-[2-(1-oxo-1H-isoquinolin-2-yl)ethyl]amino}propoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
(1-Oxo-1H-isoquinolin-2-yl)acetaldehyde (207 mg, 1.1 mmol) was added to a 1,2-dichloroethane solution (4 ml) of 7-(3-aminopropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (329 mg, 1.0 mmol) and sodium triacetoxyhydroborate (381 mg, 1.8 mmol), and stirred at room temperature overnight. Water was added to the reaction mixture, and extraction with ethyl acetate was performed. The organic layer was washed with water, and a saturated sodium chloride aqueous solution, in this order, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane:methanol=20:1). The purified product was concentrated under reduced pressure to thereby obtain 7-(3-{bis-[2-(1-oxo-1H-isoquinolin-2-yl)ethyl]amino}propoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione.

reactant | (1-Oxo-1H-isoquinolin-2-yl)acetaldehyde | 1.1 mmol, 207 mg | O=C1N(C=CC2=CC=CC=C12)CC=O | C11H9NO2
reactant | 1,2-dichloroethane | 4 ml | ClCCCl | C2H4Cl2
reactant | 7-(3-aminopropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 1.0 mmol, 329 mg | NCCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C17H25N3O3
reactant | sodium | [Na] | Na
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 7-(3-{bis-[2-(1-oxo-1H-isoquinolin-2-yl)ethyl]amino}propoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | O=C1N(C=CC2=CC=CC=C12)CCN(CCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)CCN1C(C2=CC=CC=C2C=C1)=O | C39H43N5O5
